US04439433
0.335 g of phthalimidoacetyl chloride were added to a suspension of 0.756 g of the syn isomer of diethylamine 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylate in 4 ml of methylene chloride and after standing at room temperature for 5 minutes, 10 ml of isopropyl ether was added to the mixture. The mixture was vacuum filtered and the recovered product was empasted with water and was dried to obtain a raw product. The product in 2 ml of a 2-1 formic acid-water mixture was stirred for 20 minutes at 35°-40° C. and 10 ml of water was added thereto. The mixture was vacuum filtered and the product was taken up in ether and vacuum filtered again. The product was dried and dissolved in 4 ml of acetone. The mixture was vaccum dried and was crystallization from 10 ml of ether to obtain 0.280 g of the syn isomer of 3-acetoxymethyl-7-[2 -(2-amino-4-thiazolyl)-2-phthalimidoacetoxyiminoacetamido]-ceph-3-eme-4-carboxylic acid.

reactant | phthalimidoacetyl chloride | 0.335 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | diethylamine 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetamido]-ceph-3-eme-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NO)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O.C(C)NCC
reactant | isopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
reactant | formic acid water | C(=O)O.O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 3-acetoxymethyl-7-[2 -(2-amino-4-thiazolyl)-2-phthalimidoacetoxyiminoacetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC(CN2C(C=1C(C2=O)=CC=CC1)=O)=O)=O)=O | C25H20N6O10S2
